US07709511B2
d) N-[2-(Diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide dihydrobromide
A suspension of 7-(2-amino-ethyl)-4-hydroxy-3H-benzothiazol-2-one hydrochloride (53 g) in dry NMP (216 mL) was heated to 60° C. and treated in one portion with a solution of NaOH (8.2 g) in methanol (102 mL). The bright orange suspension was cooled to room temperature and treated dropwise with a solution of N-[2-(diethylamino)ethyl]-3-[2-(1-naphthyl)ethoxy]-N-(2-oxoethyl)propanamide in dichloromethane (475 mL) over 20 minutes. The reaction was left to stir for 25 minutes. Sodium triacetoxyborohydride (91.5 g) was then added in portions over 20 minutes and the mixture then stirred for a further 50 minutes. The reaction mixture was poured into water (1.8 L) and the acidic solution (pH5) was washed with tert. butyl methyl ether (TBME) (3×500 mL). The aqueous phase was basified to pH8 by the addition of solid potassium carbonate and extracted with dichloromethane (3×750 mL); the combined organic extracts were dried over magnesium sulphate and concentrated to give a dark oil. This was dissolved in ethanol (200 mL) and 48% aqueous hydrobromic acid (73 mL) was added. The solution was aged for 30 minutes then evaporated to dryness. The residue was triturated with ethanol (560 mL); the resultant solid was collected by filtration and dried in vacuo at 50. The sticky solid was suspended in boiling ethanol (100 mL) and filtered hot; the collected solid was dried in vacuo at 50° C. This material was recrystallised from ethanol/water (3:1, 500 mL); after standing overnight the resultant solid was collected by filtration and washed with ice-cold ethanol (75 mL). Drying in vacuo at 50 C for 24 hr afforded 57 g of the title compound.

reactant | 7-(2-amino-ethyl)-4-hydroxy-3H-benzothiazol-2-one hydrochloride | 53 g | Cl.NCCC1=CC=C(C=2NC(SC21)=O)O
reactant | NaOH | 8.2 g | [OH-].[Na+]
reactant | N-[2-(diethylamino)ethyl]-3-[2-(1-naphthyl)ethoxy]-N-(2-oxoethyl)propanamide | C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CC=O)CC | C23H32N2O3
reactant | Sodium triacetoxyborohydride | 91.5 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrobromic acid | 73 mL | Br | BrH
solvent | NMP | 216 mL | CN1CCCC1=O | C5H9NO
solvent | methanol | 102 mL | CO | CH4O
solvent | dichloromethane | 475 mL | ClCCl | CH2Cl2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 1.8 L | O | H2O
product | N-[2-(Diethylamino)ethyl]-N-(2-{[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]amino}ethyl)-3-[2-(1-naphthyl)ethoxy]propanamide dihydrobromide | 57 g | Br.Br.C(C)N(CCN(C(CCOCCC1=CC=CC2=CC=CC=C12)=O)CCNCCC1=CC=C(C=2NC(SC21)=O)O)CC | InChI=1S/C32H42N4O4S.2BrH/c1-3-35(4-2)20-21-36(19-18-33-17-14-26-12-13-28(37)30-31(26)41-32(39)34-30)29(38)16-23-40-22-15-25-10-7-9-24-8-5-6-11-27(24)25;;/h5-13,33,37H,3-4,14-23H2,1-2H3,(H,34,39);2*1H
